US07244864B2
5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide
5-Amino-1,3-benzenedicarboxylic acid di-n-butyl ester (1148 g, 3.91 mol) is loaded into a 10 L reaction vessel containing methanol (7.5 L) and a 1.5M solution of sodium methylate in methanol (0.39 L, 0.59 mol) and 2-amino-1,3-dihydroxypropane (820 g, 9.0 mol) are added thereto. The reaction mixture is then heated to the reflux temperature and kept at this temperature for 4 hours. The mixture is then concentrated to 4 L, cooled to 25° C. and after one night at room temperature it is filtered. The solid on filter is washed with methanol (2×1.3 L) and dried yielding the compound of the title (1215 g, 3.71 mol, yield: 95%).

reactant | 5-Amino-1,3-benzenedicarboxylic acid di-n-butyl ester | 3.91 mol, 1148 g | C(CCC)OC(=O)C1=CC(=CC(=C1)N)C(=O)OCCCC | C16H23NO4
reactant | sodium methylate | C[O-].[Na+]
reactant | 2-amino-1,3-dihydroxypropane | 9.0 mol, 820 g | NC(CO)CO | C3H9NO2
solvent | methanol | 7.5 L | CO | CH4O
solvent | methanol | 0.59 mol, 0.39 L | CO | CH4O
product | 5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide | yield: 95% | NC=1C=C(C=C(C1)C(=O)NC(CO)CO)C(=O)NC(CO)CO | C14H21N3O6
